US05998459
2-Amino-3-cyano-4H-[1]benzopyrano[4,3-b]pyrrole (compound No. 52)
To an ethanolic solution of 2-cyanoacetamidine prepared from ethyl 2-cyanoacetimidate hydrochloride (4.0 g) as in Reference Example 2 was added a solution of 3-bromo-4-chromanone (3.0 g) in ethanol dropwise under ice-cooling with stirring. The mixture was stirred at room temperature overnight and, then, concentrated under reduced pressure. The resulting crude product was dissolved in ethyl acetate. The ethyl acetate layer was washed with water, dried over MgSO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Wakogel C-200, 200 g; eluent: 2% methanol/chloroform) and recrystallized from acetone/isopropyl ether to provide the title compound as light-brown crystals (0.31 g). m.p. 216-217° C.

reactant | 2-cyanoacetamidine | C(#N)CC(=N)N | C3H5N3
reactant | ethyl 2-cyanoacetimidate hydrochloride | 4.0 g | Cl.C(#N)CC(OCC)=N
reactant | 3-bromo-4-chromanone | 3.0 g | BrC1COC2=CC=CC=C2C1=O | C9H7BrO2
solvent | ethanol | C(C)O | C2H6O
product | 2-Amino-3-cyano-4H-[1]benzopyrano[4,3-b]pyrrole | 0.31 g | NC1=C(C2=C(N1)C1=C(OC2)C=CC=C1)C#N | C12H9N3O
